US06509328B1
{2′,3′-Difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G49) (160 mg, 0.5 mmol) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example H2) (130 mg, 0.5 mmol) according to the general procedure K. Obtained as an amorphous yellow substance (166 mg).

reactant | (3-amino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 160 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=CC=C1)F)F)N)=O | C17H18F2N2O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | 0.5 mmol, 130 mg | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {2′,3′-Difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=CC=C1)F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C28H25F2N5O4
